US06211170B1
Following the same procedure as in example 4, step D, but using 4(R)-(benzenesulfinylmethyl)azetidin-2-one and benzylisocyanate as the starting material, gave 2(R)-benzenesulfinylmethyl-4-oxoazetidine-1-carboxylic acid benzyl amide.

reactant | 4(R)-(benzenesulfinylmethyl)azetidin-2-one | C1(=CC=CC=C1)S(=O)C[C@H]1CC(N1)=O | C10H11NO2S
reactant | benzylisocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | 2(R)-benzenesulfinylmethyl-4-oxoazetidine-1-carboxylic acid benzyl amide | C(C1=CC=CC=C1)NC(=O)N1[C@H](CC1=O)CS(=O)C1=CC=CC=C1 | C18H18N2O3S
